US06489322B1
c) 4-Isopropyl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-ylamine
To 4-isopropyl-7-nitro-2,3,4,5-tetrahydro-1,4-benzoxazepine (17.46 g) in methanol (1.5 1) was added acetic acid (36 ml) and zinc dust (36 g) portionwise, and the mixture was stirred for 3 h. The mixture was diluted with water (1 1), basified with conc. ammonium hydroxide (250 ml), and extracted with ethyl acetate (5×250 ml). The extracts were dried with magnesium sulfate, filtered and concentrated to an oil (11.34 g, 74%) which was used immediately in the next step.

reactant | 4-isopropyl-7-nitro-2,3,4,5-tetrahydro-1,4-benzoxazepine | 17.46 g | C(C)(C)N1CCOC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C12H16N2O3
reactant | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
reactant | ammonium hydroxide | 250 ml | [OH-].[NH4+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
catalyst | zinc | 36 g | [Zn] | Zn
product | 4-Isopropyl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-ylamine | C(C)(C)N1CCOC2=C(C1)C=C(C=C2)N | C12H18N2O
